US04415571
5.9 g (51.7 millimoles) of (hydroxymethyl)-cyclohexane are added dropwise to a stirred solution of 13.0 g (131.4 millimoles) of phosgene in 100 ml of absolute ether at 0°-10° C. The reaction solution is then stirred for 1 hour at 0°-10° C., and then for an hour at room temperature, and the excess phosgene is removed by means of a dry stream of nitrogen, after which the ether is removed under reduced pressure at room temperature. The cyclohexylmethyl chloroformate which is left (8.5 g) is reacted with 5.0 g (24.6 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone by the method described in Example 31. The reaction mixture is also worked up as described in Example 31. After recrystallizing the product first from dimethylformamide/water, then from ethyl acetate/petroleum ether and finally from acetone/water, 2.1 g (25% of theory) of 6-(p-cyclohexylmethoxycarbonylaminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone are obtained as colorless crystals of melting point 223°-225° C.

reactant | (hydroxymethyl)-cyclohexane | 51.7 millimoles, 5.9 g | OCC1CCCCC1 | C7H14O
reactant | phosgene | 131.4 millimoles, 13.0 g | C(=O)(Cl)Cl | CCl2O
reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 24.6 millimoles, 5.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 6-(p-cyclohexylmethoxycarbonylaminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 2.1 g, 25% | C1(CCCCC1)COC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C19H25N3O3
